US07504411B2
3-(1-Benzoylpiperidin-4-yl)-6-fluorobenzo[b]thiophene-2-carboxylic acid (10 g, 26 mmol) was suspended in quinoline (100 mL) and cupper powder (0.5 g) was added. After stirring at 200° C. for 1 h, the mixture was cooled to room temperature and partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulfate and evaporated. The obtained residue was purified by silica gel column chromatography eluting hexane/ethyl acetate to give (4-(6-fluorobenzo[b]thiophen-3-yl)piperidin-1-yl)phenylmethanone (5.0 g, 48%) as yellow crystals.

reactant | 3-(1-Benzoylpiperidin-4-yl)-6-fluorobenzo[b]thiophene-2-carboxylic acid | 26 mmol, 10 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)C=1C2=C(SC1C(=O)O)C=C(C=C2)F | C21H18FNO3S
solvent | quinoline | 100 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
product | (4-(6-fluorobenzo[b]thiophen-3-yl)piperidin-1-yl)phenylmethanone | 5.0 g, 48% | FC=1C=CC2=C(SC=C2C2CCN(CC2)C(=O)C2=CC=CC=C2)C1 | C20H18FNOS
